US07452901B2
To a cooled (−78° C.) solution of mycophenolic acid methyl ester (138 mg, 0.41 mmol) in THF (2.5 mL) was added a THF solution of sodium bis(trimethysilyl)amide (1.0 M, 0.98 mL). After stirring for 30 minutes, a solution of 1,4-dibromo-2-butene (950 mg, 4.1 mmol) in THF (2.5 mL) was added and stirring was continued for 10 min. The resulting mixture was warmed to −30° C. and stored at this temperature for 16 h. The reaction was quenched with saturated aqueous ammonium chloride. The mixture was extracted with ethyl acetate to give, after evaporation of the solvent, a residue which was purified by chromatography on silica gel, eluting with ethyl acetate (0% to 40%)/hexanes, affording 2-(4-bromo-but-2-enyl)-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid methyl ester (150 mg, 78%) as an oil; 1H NMR (300 MHz, CDCl3) δ 1.75 (s, 3H), 2.0-2.4 (m, 8H), 2.62 (m, 1H), 3.37 (d, J=6.6 Hz, 2H), 3.58 (s, 3H), 3.76 (s, 3H), 3.88 (d, J=4.8 Hz, 2H), 5.1-5.3 (m, 3H), 5.67 (brs, 2H), 7.67 (s, 1H).

reactant | mycophenolic acid methyl ester | 0.41 mmol, 138 mg | CC1=C(C(=C(C2=C1COC2=O)O)C/C=C(\C)/CCC(=O)OC)OC | C18H22O6
reactant | sodium bis(trimethysilyl)amide | 1.0 M, 0.98 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1,4-dibromo-2-butene | 4.1 mmol, 950 mg | BrCC=CCBr | C4H6Br2
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 2-(4-bromo-but-2-enyl)-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid methyl ester | 150 mg, 78% | COC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C)CC=CCBr)=O | C22H27BrO6
